US08334456B2
Step 3: Preparation of 4,8-bis(10-phenyldecyl)-2,6-bis-trimethylstannylbenzo[1,2-b:4,5-b′]dithiophene.
To a solution of 4,8-bis(10-phenyldecyl)benzo[1,2-b:4,5-b′]dithiophene (466 mg, 0.75 mmol) in dry tetrahydrofuran (15 mL) was added n-butyllithium (2.5 M in hexane, 0.66 mL, 1.65 mmol) at −78° C. After 1 hour, trimethyltin chloride (349 mg, 1.75 mmol) was added in one portion. The mixture was stirred at room temperature overnight, poured into water (25 mL) and extracted with ether three times. The organic layer was washed with brine and dried over anhydrous MgSO4. Upon evaporating the solvent, a pale yellow oil was obtained (500 mg, yield 70%). 1H NMR (CDCl3, 500 MHz) δ=7.49 (s, 2H), 7.27-7.32 (m, 4H), 7.17 (d, J=7.5 Hz, 6H), 3.19 (t, J=7.5 Hz, 4H), 2.59 (t, J=8.0 Hz, 4H), 1.75-1.84 (m, 4H), 1.56-1.66 (m, 4H), 1.42-1.50 (m, 4H), 1.17-1.41 (m, 20H), 0.45 (s, 18H).

reactant | 4,8-bis(10-phenyldecyl)benzo[1,2-b:4,5-b′]dithiophene | 0.75 mmol, 466 mg | C1(=CC=CC=C1)CCCCCCCCCCC1=C2C(SC=C2)=C(C2=C1SC=C2)CCCCCCCCCCC2=CC=CC=C2 | C42H54S2
reactant | n-butyllithium | 1.65 mmol, 2.5 M, 0.66 mL | C(CCC)[Li]
reactant | trimethyltin chloride | 1.75 mmol, 349 mg | C[Sn](C)(C)Cl
reactant | water | 25 mL | O | H2O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 4,8-bis(10-phenyldecyl)-2,6-bis-trimethylstannylbenzo[1,2-b:4,5-b′]dithiophene | yield 70% | C1(=CC=CC=C1)CCCCCCCCCCC1=C2C(SC(=C2)[Sn](C)(C)C)=C(C2=C1SC(=C2)[Sn](C)(C)C)CCCCCCCCCCC2=CC=CC=C2 | InChI=1S/C42H52S2.6CH3.2Sn/c1(5-9-15-23-35-25-17-13-18-26-35)3-7-11-21-29-37-39-31-33-44-42(39)38(40-32-34-43-41(37)40)30-22-12-8-4-2-6-10-16-24-36-27-19-14-20-28-36;;;;;;;;/h13-14,17-20,25-28,31-32H,1-12,15-16,21-24,29-30H2;6*1H3;;
